US09120825B2
In an argon atmosphere, 5.90 g (25.4 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 40 mL of hexane and after adding 3.03 g (51.3 mmol) of propylamine, the mixture was stirred at room temperature for 3 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 92° C./3.5×102 Pa) to obtain 1,3-di-tert-butyl-2-propylamino-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NHPr) as a pale yellow liquid (yielded amount: 5.99 g, yield: 92%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 25.4 mmol, 5.90 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | propylamine | 51.3 mmol, 3.03 g | C(CC)N | C3H9N
solvent | hexane | 40 mL | CCCCCC | C6H14
product | 1,3-di-tert-butyl-2-propylamino-1,3-diaza-2-silacyclopent-4-ene | yield: 92% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)NCCC | C13H29N3Si
